US07754747B2
Step 2: 1-Benzyl-3-{5-[6-(1H-tetrazol-5-ylmethoxy)-2-naphthyl]-1,3-oxazol-2-yl}-1H-indole.
A mixture of ({6-[2-(1-benzyl-1H-indol-3-yl)-1,3-oxazol-5-yl]-2-naphthyl}oxy)acetonitrile (104 mg, 0.228 mmol), prepared in the previous step, sodium azide (46.4 mg, 0.715 mmol) and ammonium chloride (36.9 mg, 0.69 mmol) in 10 mL of DMF was stirred at 100° C. for 5 h. Following the reaction by MS, starting material remained. Additional sodium azide (48.9 mg, 0.724 mmol) and ammonium chloride (37.6 mg, 0.71 mmol) were added and the reaction stirred at 100° C. for 2 h. This procedure was repeated until the MS showed that the reaction had gone to completion (three additional times). The reaction was acidified with 10 mL of 1N HCl and then diluted with 10 mL of H2O. The solid that formed was collected by filtration, rinsed with water and dried under reduced pressure to give the title compound (102 mg, 90%) as a tan solid, mp 244-246° C. Elemental Analysis for C30H22N6O2+0.31 H2O Calc'd: C, 71.48; H, 4.52; N, 16.67. Found: C, 69.55; H, 4.55; N, 16.15.

reactant | ({6-[2-(1-benzyl-1H-indol-3-yl)-1,3-oxazol-5-yl]-2-naphthyl}oxy)acetonitrile | 0.228 mmol, 104 mg | C(C1=CC=CC=C1)N1C=C(C2=CC=CC=C12)C=1OC(=CN1)C=1C=C2C=CC(=CC2=CC1)OCC#N | C30H21N3O2
reactant | sodium azide | 0.715 mmol, 46.4 mg | [N-]=[N+]=[N-].[Na+]
reactant | ammonium chloride | 0.69 mmol, 36.9 mg | [Cl-].[NH4+]
reactant | sodium azide | 0.724 mmol, 48.9 mg | [N-]=[N+]=[N-].[Na+]
reactant | ammonium chloride | 0.71 mmol, 37.6 mg | [Cl-].[NH4+]
reactant | HCl | 1N, 10 mL | Cl | ClH
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | H2O | 10 mL | O | H2O
product | 1-Benzyl-3-{5-[6-(1H-tetrazol-5-ylmethoxy)-2-naphthyl]-1,3-oxazol-2-yl}-1H-indole | 102 mg, 90% | C(C1=CC=CC=C1)N1C=C(C2=CC=CC=C12)C=1OC(=CN1)C1=CC2=CC=C(C=C2C=C1)OCC1=NN=NN1 | C30H22N6O2
